US08669361B2
In a microwave reaction vessel, (R)-tert-butyl 4-(5-(4-Cbz-aminoazepan-1-yl)-1-methyl-1H-pyrazol-4-ylcarbamoyl)-2-bromothiazol-5-ylcarbamate (130 mg, 0.2 mmol), 2-(5-cyclopropyl-2-fluoro-3-methylphenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione (167 mg, 0.55 mmol), S-Phos (13.2 mg, 0.032 mmol) and palladium acetate (3.6 mg, 0.016 mmol) were dissolved in 1,4-dioxane (4.0 mL). The cap was closed and the reaction vessel was vacuum purged with nitrogen three times. Potassium phosphate (3.0M aq., 0.27 mL, 0.81 mmol, degassed before use) was added and mixture was stirred at room temperature for 10 min before heated under microwave at 120° C. for 20 min. The mixture was diluted with methanol and filtered through a pad of Celite and washed with copious amount of methylene chloride. The filtrate was concentrated in vacuo and purified on flash chromatography (Isco Co.) eluted with 0 to 5% methanol in methylene chloride to give (R)-tert-butyl 4-(5-(4-Cbz-aminoazepan-1-yl)-1-methyl-1H-pyrazol-4-ylcarbamoyl)-2-(5-cyclopropyl-2-fluoro-3-methylphenyl)thiazol-5-ylcarbamate (82 mg, 57%).

reactant | (R)-tert-butyl 4-(5-(4-Cbz-aminoazepan-1-yl)-1-methyl-1H-pyrazol-4-ylcarbamoyl)-2-bromothiazol-5-ylcarbamate | 0.2 mmol, 130 mg | C(=O)(OCC1=CC=CC=C1)C1C[C@@H](N(CCC1)C1=C(C=NN1C)NC(=O)C=1N=C(SC1NC(OC(C)(C)C)=O)Br)N | C27H34BrN7O5S
reactant | 2-(5-cyclopropyl-2-fluoro-3-methylphenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione | 0.55 mmol, 167 mg | C1(CC1)C=1C=C(C(=C(C1)B1OC(CN(CC(O1)=O)C)=O)F)C | C15H17BFNO4
reactant | S-Phos | 0.032 mmol, 13.2 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | Potassium phosphate | 0.81 mmol, 3.0M, 0.27 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
catalyst | palladium acetate | 0.016 mmol, 3.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (R)-tert-butyl 4-(5-(4-Cbz-aminoazepan-1-yl)-1-methyl-1H-pyrazol-4-ylcarbamoyl)-2-(5-cyclopropyl-2-fluoro-3-methylphenyl)thiazol-5-ylcarbamate | 82 mg, 57% | C(=O)(OCC1=CC=CC=C1)C1C[C@@H](N(CCC1)C1=C(C=NN1C)NC(=O)C=1N=C(SC1NC(OC(C)(C)C)=O)C1=C(C(=CC(=C1)C1CC1)C)F)N | C37H44FN7O5S
